### PR TITLE
[Merged by Bors] - feat(RingTheory/Ideal/Height): prime ideal determined by height among overideals

### PR DESCRIPTION
**Pull request by hommmmm**
## Summary
- Add `Ideal.eq_of_le_of_height_eq`: a prime ideal of finite height is equal to any ideal of the same height that contains it.

## Notes
This is a direct consequence of `Ideal.height_strict_mono_of_is_prime`: if `I` were strictly contained in `J`, their heights would differ.

## AI Disclosure
No AI is used in this pull request.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 1]
```diff
@@ -1,7 +1,7 @@
 /-
 Copyright (c) 2025 Andrew Yang. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Wanyi He, Jiedong Jiang, Jingting Wang, Andrew Yang, Shouxin Zhang
+Authors: Wanyi He, Jiedong Jiang, Haoming Ning, Jingting Wang, Andrew Yang, Shouxin Zhang
```
Comment (tb65536) [inline Mathlib/RingTheory/Ideal/Height.lean]: Usually we don't add authors for single lemmas. (The authors line is sort of a list of who to go to for bigger questions about the file).

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 2]
```diff
@@ -134,6 +134,11 @@ lemma Ideal.height_strict_mono_of_is_prime {I J : Ideal R} [I.IsPrime]
     have : I < K := lt_of_lt_of_le h hK.1.2
     exact Ideal.primeHeight_add_one_le_of_lt this
 
+/-- A prime ideal of finite height is equal to any ideal of the same height that contains it. -/
+lemma Ideal.eq_of_le_of_height_eq [I.IsPrime] [I.FiniteHeight]
+    (J : Ideal R) (h : I ≤ J) (hIJ : I.height = J.height) : I = J :=
```
Comment (tb65536) [inline Mathlib/RingTheory/Ideal/Height.lean]: You can probably generalize this J.height <= I.height?

File: Mathlib/RingTheory/Ideal/Height.lean (hunk 1 above)
Comment (hommmmm) [reply Mathlib/RingTheory/Ideal/Height.lean]: I wasn't sure of the convention so thanks for the info! I reverted this change.

File: Mathlib/RingTheory/Ideal/Height.lean (hunk 2 above)
Comment (hommmmm) [reply Mathlib/RingTheory/Ideal/Height.lean]: Done!

Comment (tb65536) [reply Mathlib/RingTheory/Ideal/Height.lean]: I wouldn't keep this around anymore since it's an immediate specialization of the previous.

Comment (chrisflav) [reply Mathlib/RingTheory/Ideal/Height.lean]: I agree with Thomas, could you please remove the second lemma?

**Comment by chrisflav** [comment]
Welcome! Could you please clarify if and how you used AI for (parts of) this pull request? Note that our [contribution guidelines](https://leanprover-community.github.io/contribute/index.html#use-of-ai) require disclosure of any AI assistance.
Please note that this message does not say anything about your PR in particular, this is just a regular question we ask on PRs by new contributors.

**Comment by hommmmm** [comment]
> Welcome! Could you please clarify if and how you used AI for (parts of) this pull request? Note that our [contribution guidelines](https://leanprover-community.github.io/contribute/index.html#use-of-ai) require disclosure of any AI assistance. Please note that this message does not say anything about your PR in particular, this is just a regular question we ask on PRs by new contributors.

Updated comment with AI disclosure. No AI is used in this PR.

-awaiting-author

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 3]
```diff
@@ -134,6 +134,11 @@ lemma Ideal.height_strict_mono_of_is_prime {I J : Ideal R} [I.IsPrime]
     have : I < K := lt_of_lt_of_le h hK.1.2
     exact Ideal.primeHeight_add_one_le_of_lt this
 
+/-- A prime ideal of finite height is equal to any ideal that contains it with no greater height. -/
+lemma Ideal.eq_of_le_of_height_le [I.IsPrime] [I.FiniteHeight]
+    (J : Ideal R) (h : I ≤ J) (h_height : J.height ≤ I.height) : I = J :=
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/Height.lean]:
```suggestion
    {J : Ideal R} (h : I ≤ J) (h_height : J.height ≤ I.height) : I = J :=
```

**Review by chrisflav — APPROVED** [review]
Thanks for the PR, one minor comment.

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

**Comment by Thmoas-Guan** [comment]
I have a small question here, why we are adding this kind of contrapose statement?

**Comment by chrisflav** [comment]
I agree that this lemma is not a must have. I was on the fence about it, but thought it does not hurt to have it and it is probably easier to use in practice, so we might as well have it.
